US07420001B2
To a solution of 160 mg of 4-propoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester dissolved in 1 mL of THF was added 3 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature overnight. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The solution was acidified and the resulting suspension was filtered. The solid product was dried under vacuum to give 124 mg (87% yield) of 4-propoxy-3-methyl-benzofuran-2-carboxylic acid, obtained as white solid.

reactant | 4-propoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 160 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCC | C15H18O4
reactant | LiOH | 3 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-propoxy-3-methyl-benzofuran-2-carboxylic acid | 124 mg, 87% yield | C(CC)OC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C13H14O4
